US08138181B2
Step B: Preparation of (R)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-8-(pyrrolidin-2-ylmethoxy)quinoline:
(R)-tert-butyl 2-((2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)methyl)pyrrolidine-1-carboxylate (241 mg, 0.47 mmol) was dissolved in 10 mL of chloroform, followed by addition of 4.0M HCl in dioxane (4.65 ml, 9.3 mmol). The reaction was allowed to stir for 30 hours at ambient temperature at which time all starting material was consumed by LC/TLC. The reaction was concentrated in vacuo, followed by flash column chromatography (eluting with a 1-20% MeOH/DCM gradient), affording an oil on concentration. The crude oil was treated with 1000 uL of 4.0 M HCl in dioxane, affording the desired product (80 mg, 41% yield). MS APCI (+) m/z 419.1 (M+1) detected.

reactant | (R)-tert-butyl 2-((2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)methyl)pyrrolidine-1-carboxylate | 0.47 mmol, 241 mg | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)OC[C@@H]2N(CCC2)C(=O)OC(C)(C)C | C29H34N4O5
reactant | HCl | 4.0M | Cl | ClH
reactant | dioxane | 9.3 mmol, 4.65 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | (R)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-8-(pyrrolidin-2-ylmethoxy)quinoline | 80 mg, 41% yield | COCCOC1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)OC[C@@H]2NCCC2 | C24H26N4O3
